US07897611B2
6-(3-Pyridinyl)-3-azabicyclo[3.2.1]oct-6-ene (190 mg, 1.0 mmol) was dissolved in ethanol (5 ml), and 12 N HCl (2 ml) was added. The solution was sonicated for 3 min, and then concentrated by azeotropic rotary evaporation with ethanol (3×5 ml) to yield a fluffy solid. Then the salt was dissolved in hot isopropanol (2 ml), and diethyl ether was added until a milky solution formed. Cooling in the freezer produced a light brown solid. The solid was filtered, washed with diethyl ether, and dried under high vacuum to yield 6-(3-pyridinyl)-3-azabicyclo[3.2.1]oct-6-ene dihydrochloride, (230 mg, 87%, m.p. 192-195° C.).

reactant | 6-(3-Pyridinyl)-3-azabicyclo[3.2.1]oct-6-ene | 1.0 mmol, 190 mg | N1=CC(=CC=C1)C=1C2CNCC(C1)C2 | C12H14N2
reactant | HCl | 12 N, 2 ml | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | 6-(3-pyridinyl)-3-azabicyclo[3.2.1]oct-6-ene dihydrochloride | 230 mg, 87% | Cl.Cl.N1=CC(=CC=C1)C=1C2CNCC(C1)C2 | InChI=1S/C12H14N2.2ClH/c1-2-10(7-13-3-1)12-5-9-4-11(12)8-14-6-9;;/h1-3,5,7,9,11,14H,4,6,8H2;2*1H
